US07812025B2
4-(5-Phenylpyridin-2-yl)-N-pyridin-3-ylpiperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl pyridin-3-ylcarbamate (235 mg, 0.872 mmol), 1-(5-phenylpyridin-2-yl)piperazine (200 mg, 0.872 mmol), diisopropylethylamine (0.3047 ml, 1.74 mmol) and dimethylsulfoxide (4 ml) was stirred at 70° C. for 12 hours, then the reaction solution was poured into water, and extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled away under reduce pressure, and the residue was recrystallized from ethyl acetate to give the titled compound 47 mg (47.0%) as solid product.

reactant | 2,2,2-trichloroethyl pyridin-3-ylcarbamate | 0.872 mmol, 235 mg | N1=CC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 1-(5-phenylpyridin-2-yl)piperazine | 0.872 mmol, 200 mg | C1(=CC=CC=C1)C=1C=CC(=NC1)N1CCNCC1 | C15H17N3
reactant | diisopropylethylamine | 1.74 mmol, 0.3047 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(5-Phenylpyridin-2-yl)-N-pyridin-3-ylpiperazine-1-carboxamide | 47 mg, 47.0% | C1(=CC=CC=C1)C=1C=CC(=NC1)N1CCN(CC1)C(=O)NC=1C=NC=CC1 | C21H21N5O
